US04666886
20 g (0.1652 mol) of Cys are reacted with 36.6 g (0.1487 mol) of myristoyl chloride analogously to Stage 6.1 to form tetradecanoyl-Cys: m.p.=63°-65°, Rf =0.13 (CH2Cl2 :acetone=8:2).

reactant | Cys | 0.1652 mol, 20 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | myristoyl chloride | 0.1487 mol, 36.6 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
product | tetradecanoyl-Cys | N([C@@H](CS)C(=O)O)C(=O)CCCCCCCCCCCCC | C17H33NO3S
